US09062005B2
Step A: Preparation of 4-[(1,3-Dimethyl-1H-pyrazol-5-yl)oxy]-3,5-difluorobenzonitrile
Potassium carbonate (1.38 g, 10 mmol) was added to a solution of 2,4-dihydro-2,5-dimethyl-3H-pyrazol-3-one (0.70 g, 6.3 mmol) in N,N-dimethylformamide (15 mL). 3,4,5-Trifluorobenzonitrile (0.94 g, 6.0 mmol) was added, and the reaction mixture was heated at 75° C. under a nitrogen atmosphere for 16 h, then allowed to cool. The reaction mixture was partitioned between water (60 mL) and ethyl acetate (30 mL). The organic phase was washed with water (2×30 mL) and brine (30 mL), dried over MgSO4, and concentrated to give the title compound as a yellow oil (1.38 g).

reactant | Potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-dihydro-2,5-dimethyl-3H-pyrazol-3-one | 6.3 mmol, 0.70 g | CN1N=C(CC1=O)C | C5H8N2O
reactant | 3,4,5-Trifluorobenzonitrile | 6.0 mmol, 0.94 g | FC=1C=C(C#N)C=C(C1F)F | C7H2F3N
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 4-[(1,3-Dimethyl-1H-pyrazol-5-yl)oxy]-3,5-difluorobenzonitrile | 1.38 g | CN1N=C(C=C1OC1=C(C=C(C#N)C=C1F)F)C | C12H9F2N3O
